US05859014
A mixture of 1-(1-benzyl-5-methyl-2,4-dioxo-(1H,3H)-pyrimidin-3-ylmethyl)-1-cyclopropanecarboxylic acid (11 g, 35 mmol), triethylamine (6.46 mL, 45.6 mmol) and THF (138 mL) was cooled to 0° C. under argon and a mixture of methyl chloroformate (3.23 mL, 42 mmol) and THF (20 mL) was added at a rate such that the temperature of the reaction mixture remained at 0° C. The mixture was cooled 30 minutes with stirring at 0° to 2° C. and then filtered (washing through with THF (3×50 mL)). The combined filtrate was cooled to 0° C. under argon and added to a mixture of sodium borohydride (3.29 g, 87 mmol) and water (23.3 mL) at <10° C. The mixture was stirred 2 hours, diluted with water (20 mL), treated with 10% hydrochloric acid, diluted with brine (40 mL) and extracted with ethyl acetate (4×100 mL). The combined extracts were washed with brine, dried (MgSO4) and concentrated to dryness. The residue was purified by flash chromatography on silica gel eluting with hexane/ethyl acetate (7:3) to give 1-(1-benzyl-5-methyl-2,4-dioxo-(1H,3H)-pyrimidin-3-ylmethyl)cycloprop-1-ylmethanol (9.52 g, 31.7 mmol), m.p. 81.5° C.

reactant | 1-(1-benzyl-5-methyl-2,4-dioxo-(1H,3H)-pyrimidin-3-ylmethyl)-1-cyclopropanecarboxylic acid | 35 mmol, 11 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CC1(CC1)C(=O)O)=O | C17H18N2O4
reactant | triethylamine | 45.6 mmol, 6.46 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 42 mmol, 3.23 mL | ClC(=O)OC | C2H3ClO2
reactant | sodium borohydride | 87 mmol, 3.29 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | brine | 40 mL | [Cl-].[Na+].O
solvent | water | 23.3 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 138 mL | C1CCOC1 | C4H8O
product | 1-(1-benzyl-5-methyl-2,4-dioxo-(1H,3H)-pyrimidin-3-ylmethyl)cycloprop-1-ylmethanol | 31.7 mmol, 9.52 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CC1(CC1)CO)=O | C17H20N2O3
